US05364871
Methanesulfonic acid (18.6 g) was added to a solution of 2-acetyl-6-(propionylaminomethyl)pyridine (40.0 g) in dioxane (800 ml) at room temperature. The mixture was stirred at room temperature for 15 minutes. Bromine (34.1 g) was added slowly to the mixture at room temperature. The mixture was heated at 50° C. for 3 hours. To the mixture sodium hydrogencarbonate (65.2 g), thiourea (17.7 g) and methanol (800 ml) was added. The mixture was heated at 50° C. for 4 hours. The solvent was removed under reduced pressure and the residue was dissolved in water (700 ml). The mixture was extracted with a mixture of ethyl acetate (700 ml) and tetrahydrofuran (700 ml). The extract was dried with magnesium sulfate and then was evaporated. The residue was crystallized from acetone to afford 2-amino-4-(6-propionylaminomethylpyridin-2-yl)thiazole (26.9 g).

reactant | Methanesulfonic acid | 18.6 g | CS(=O)(=O)O | CH4O3S
reactant | 2-acetyl-6-(propionylaminomethyl)pyridine | 40.0 g | C(C)(=O)C1=NC(=CC=C1)CNC(CC)=O | C11H14N2O2
reactant | Bromine | 34.1 g | BrBr | Br2
reactant | sodium hydrogencarbonate | 65.2 g | C(O)([O-])=O.[Na+]
reactant | thiourea | 17.7 g | NC(=S)N | CH4N2S
solvent | dioxane | 800 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 800 ml | CO | CH4O
product | 2-amino-4-(6-propionylaminomethylpyridin-2-yl)thiazole | 26.9 g | NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CC)=O | C12H14N4OS
